US08557830B2
A mixture of 4-aminobenzonitrile (4.0 g, 34 mmol), isopropanol (50 mL) and 1-chloro-6-methyl-5-nitroisoquinoline (5.0 g, 22 mmol) was stirred at RT (22° C.) and treated with TFA (5.0 mL, 67 mmol). The reaction mixture was stirred at 80° C. for 17 h, and allowed to cool to RT. The thick slurry was diluted with isopropanol (100 mL) and the solid precipitate was collected by suction filtration. The solid was washed with saturated NaHCO3 (2×100 mL), water (50 mL), Et2O (50 mL), and hexane (100 mL) and dried in a vacuum oven at 70° C. overnight to provide 4-(6-methyl-5-nitroisoquinolin-1-ylamino)benzonitrile (6.0 g, 88% yield) as a yellow solid. MS (ESI, pos. ion) m/z: 305 [M+H]+.

reactant | 4-aminobenzonitrile | 34 mmol, 4.0 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 1-chloro-6-methyl-5-nitroisoquinoline | 22 mmol, 5.0 g | ClC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C10H7ClN2O2
reactant | TFA | 67 mmol, 5.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 4-(6-methyl-5-nitroisoquinolin-1-ylamino)benzonitrile | 6.0 g, 88% yield | CC=1C(=C2C=CN=C(C2=CC1)NC1=CC=C(C#N)C=C1)[N+](=O)[O-] | C17H12N4O2
